US06194406B1
Combine 2-methoxy-5-methylthiobenzoic acid (6.82 g, 34.4 mmol) and methanol (65 mL). Cool in an ice bath. Add slowly dropwise thionyl chloride (2.8 mL, 38 mmol). Warm to ambient temperature. After 18 hours, evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 25% hexane/dichloromethane to give methyl 2-methoxy-5-methylthiobenzoate: Rf=0.06 (silica gel, 65% hexane/dichloromethane).

reactant | 2-methoxy-5-methylthiobenzoic acid | 34.4 mmol, 6.82 g | COC1=C(C(=S)O)C=C(C=C1)C | C9H10O2S
reactant | methanol | 65 mL | CO | CH4O
reactant | thionyl chloride | 38 mmol, 2.8 mL | S(=O)(Cl)Cl | Cl2OS
solvent | hexane dichloromethane | CCCCCC.ClCCl
product | methyl 2-methoxy-5-methylthiobenzoate | COC1=C(C(=S)OC)C=C(C=C1)C | C10H12O2S
